US07759373B2
A mixture of ethyl 4-(4-fluorobenzoylamino)-4-(2-thienyl)-3-ketobutyrate (349 mg), and phosphorus oxychloride (0.12 ml) in N,N-dimethylformamide (5 ml) was stirred at room temperature for 2.5 hours. The reaction mixture was poured into water, neutralized with a saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel flush column chromatography (solvent: hexane:ethyl acetate=20:1) to obtain ethyl 2-(4-fluorophenyl)-4-(2-thienyl)oxazol-5-ylacetate (95 mg) as pale yellowish powder.

reactant | ethyl 4-(4-fluorobenzoylamino)-4-(2-thienyl)-3-ketobutyrate | 349 mg | FC1=CC=C(C(=O)NC(C(CC(=O)OCC)=O)C=2SC=CC2)C=C1 | C17H16FNO4S
reactant | phosphorus oxychloride | 0.12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4-fluorophenyl)-4-(2-thienyl)oxazol-5-ylacetate | 95 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)C=1SC=CC1)CC(=O)OCC | C17H14FNO3S
